US06894061B2
A stirred solution of 2-fluoroanisole (33.7 mL, 301 mmol) in chloroform (250 mL) was cooled to 0° C. and treated drop-wise with chlorosulfonic acid (50.0 mL, 752 mmol). After stirring at room temperature for 14 hours, the reaction mixture was poured into ice-water (700 mL) and the separated, aqueous phase extracted with chloroform (2×200 mL). The combined organic phase was dried over anhydrous sodium sulfate, filtered, and concentrated in vacuo to yield 3-fluoro-4-methoxybenzenesulfonyl chloride as a fine, white solid (58.6 g, 87%), m.p. 80° C.;

reactant | 2-fluoroanisole | 301 mmol, 33.7 mL | FC1=C(C=CC=C1)OC | C7H7FO
reactant | chlorosulfonic acid | 752 mmol, 50.0 mL | ClS(=O)(=O)O | ClHO3S
solvent | chloroform | 250 mL | C(Cl)(Cl)Cl | CHCl3
product | 3-fluoro-4-methoxybenzenesulfonyl chloride | FC=1C=C(C=CC1OC)S(=O)(=O)Cl | C7H6ClFO3S
